US08003649B2
A stirred solution of 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (4.44 g, 20.0 mmol), azetidin-3-ylmethanol (2.25 g, 22.0 mmol) and DIPEA (5.21 mL, 30.0 mmol) in DMF (40 mL) was heated at 70° C. for 1 hour. The solution was evaporated and partitioned between water and 2M aqueous K2CO3. The organic phase was washed with water and brine and dried over MgSO4. The crude product was purified by MPLC silica chromatography, eluting with 5% MeOH in DCM. Pure fractions were evaporated to dryness and triturated with ether, giving [1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]azetidin-3-yl]methanol (1.65 g, 30%) as a cream crystalline solid.

reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 20.0 mmol, 4.44 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | azetidin-3-ylmethanol | 22.0 mmol, 2.25 g | N1CC(C1)CO | C4H9NO
reactant | DIPEA | 30.0 mmol, 5.21 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | [1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]azetidin-3-yl]methanol | 1.65 g, 30% | FC(C1=NN=C2N1N=C(C=C2)N2CC(C2)CO)(F)F | C10H10F3N5O
